US09130244B2
5.00 g (50 mmol) of succinic anhydride, 3.55 g (50 mmol) of ethylene cyanohydrin and 61 mg (0.5 mmol) of N,N-dimethylaminopyridine were dissolved in 40 mL of toluene, and heated under reflux for 10 hours. After the reaction, the reaction liquid was concentrated under reduced pressure to give 8.71 g of 4-(2-cyanoethoxy)-4-oxobutanoic acid as a mixture.

reactant | succinic anhydride | 50 mmol, 5.00 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | ethylene cyanohydrin | 50 mmol, 3.55 g | C(CO)C#N | C3H5NO
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-cyanoethoxy)-4-oxobutanoic acid | 8.71 g | C(#N)CCOC(CCC(=O)O)=O | C7H9NO4
